US05134152
(2R*,4R*)-2(4-Fluorophenyl)-3,4-dimethyl-2-[(1H-1,2,4-triazol-1-yl)methyl]oxetane
Following a procedure similar to that described in Example 39, but using cis-2-butene and 950 mg (5.68 mmole) of 4'-fluoro-2-(1H-1,2,4-triazol-1-yl)-acetophenone, 80 mg (yield 5.3%) of a 1:1 mixture of stereoisomers at the 3-position of the title compound were obtained, in the form of oil.

reactant | cis-2-butene | C\C=C/C | C4H8
reactant | 4'-fluoro-2-(1H-1,2,4-triazol-1-yl)-acetophenone | 5.68 mmole, 950 mg | FC1=CC=C(C=C1)C(CN1N=CN=C1)=O | C10H8FN3O
product | (2R*,4R*)-2(4-Fluorophenyl)-3,4-dimethyl-2-[(1H-1,2,4-triazol-1-yl)methyl]oxetane | yield 5.3% | FC1=CC=C(C=C1)[C@@]1(O[C@@H](C1C)C)CN1N=CN=C1 | C14H16FN3O
